US20010027161A1
Dioctadecylmethylammonium bis(tris(pentafluorophenyl)borane)azide ([(C18H37)2CH3NH][((C6F5)3B)2N3])
Potassium bis(tris(pentafluorophenyl)borane)azide (1500.0 mg, 1.3573 mmol) and dioctadecylmethylammonium chloride (777.0 mg, 1.3573 mmol) were placed in a 50 mL flask. The solids were cooled to −78° C. and taken up in 20 mL of dichloromethane, added via syringe under argon counter-flow. As the stirred mixture warmed, the original solids dissolved and a fine precipitate of a colorless solid formed. The solid was removed by filtration and washed with two 5 mL portions of dichloromethane. The filtrate stripped under high vacuum, giving a colorless oil. Yield, 1646 mg, 75.33 percent.

reactant | Potassium bis(tris(pentafluorophenyl)borane)azide | 1.3573 mmol, 1500.0 mg | [N-]=[N+]=[N-].FC1=C(C(=C(C(=C1B(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F.FC1=C(C(=C(C(=C1B(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F.[K+]
reactant | dioctadecylmethylammonium chloride | 1.3573 mmol, 777.0 mg | [Cl-].C(CCCCCCCCCCCCCCCCC)[NH+](C)CCCCCCCCCCCCCCCCCC
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | Dioctadecylmethylammonium bis(tris(pentafluorophenyl)borane)azide | [N-]=[N+]=[N-].FC1=C(C(=C(C(=C1B(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F.FC1=C(C(=C(C(=C1B(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F.C(CCCCCCCCCCCCCCCCC)[NH+](C)CCCCCCCCCCCCCCCCCC | InChI=1S/C37H77N.2C18BF15.N3/c1-4-6-8-10-12-14-16-18-20-22-24-26-28-30-32-34-36-38(3)37-35-33-31-29-27-25-23-21-19-17-15-13-11-9-7-5-2;2*20-4-1(5(21)11(27)16(32)10(4)26)19(2-6(22)12(28)17(33)13(29)7(2)23)3-8(24)14(30)18(34)15(31)9(3)25;1-3-2/h4-37H2,1-3H3;;;/q;;;-1/p+1
